US08975254B2
a) 2-(Methylamino)thiazole-4-carboxylic acid
Ethyl 2-methylamino-1,3-thiazole-4-carboxylate (300 mg, 1.611 mmol) was dissolved in THF/water mixture and 1M litium hydroxide (3.22 ml, 3.22 mmol) was added. The reaction mixture was stirred at RT for 3 hours, pH was adjusted to acidic and the mixture was evaporated to dryness to yield the title compound. 1H-NMR (400 MHz; DMSO-d6): δ 2.84 (s, 3H), 7.46 (s, 1H), 7.90 (bs, 1H).

reactant | Ethyl 2-methylamino-1,3-thiazole-4-carboxylate | 1.611 mmol, 300 mg | CNC=1SC=C(N1)C(=O)OCC | C7H10N2O2S
reactant | litium hydroxide | 3.22 mmol, 1M, 3.22 ml | [OH-].[Li+]
solvent | THF water | C1CCOC1.O
product | 2-(Methylamino)thiazole-4-carboxylic acid | CNC=1SC=C(N1)C(=O)O | C5H6N2O2S
